US07482487B2
Benzyl[4-(aminomethyl)benzyl]carbamate
A solution of benzylchloroformate (10.48 ml, 74 mmol) in dichloromethane (250 ml) was added to an ice-cooled solution of 4-aminomethyl benzylamine (10 g, 74 mmol) and triethylamine (9.77 ml, 74 mmol), in dichloromethane (480 ml) over 90 minutes. The mixture was concentrated under reduced pressure and the residue partitioned between ethyl acetate (450 ml) and 1M sodium hydroxide solution (300 ml). The resulting mixture was filtered, the layers separated and the organic phase dried over magnesium sulphate and evaporated under reduced pressure. The residue was dissolved in hot ethyl acetate, the solution cooled in an ice-bath, the resulting solid filtered off, and the filtrate evaporated under reduced pressure to afford the title compound as a white solid, 7.44 g.

reactant | benzylchloroformate | 74 mmol, 10.48 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | 4-aminomethyl benzylamine | 74 mmol, 10 g | NCC1=CC=C(CN)C=C1 | C8H12N2
reactant | triethylamine | 74 mmol, 9.77 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 480 ml | ClCCl | CH2Cl2
product | Benzyl[4-(aminomethyl)benzyl]carbamate | C(C1=CC=CC=C1)OC(NCC1=CC=C(C=C1)CN)=O | C16H18N2O2
